US04874768
Using 3-(2-bromo-9,10-didehydro-1,6-dimethyl-8α-ergolinyl)-1,1-diethylurea and reacting same with diphenyldisulfide, 3-(9,10-didehydro-1,6-dimethyl-2-phenylthio-8α-ergolinyl)-1,1-diethylurea is obtained in a 47% yield.

reactant | 3-(2-bromo-9,10-didehydro-1,6-dimethyl-8α-ergolinyl)-1,1-diethylurea | BrC1=C2C[C@H]3N(C[C@H](C=C3C=3C=CC=C(N1C)C32)NC(N(CC)CC)=O)C | C21H27BrN4O
reactant | diphenyldisulfide | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
product | 3-(9,10-didehydro-1,6-dimethyl-2-phenylthio-8α-ergolinyl)-1,1-diethylurea | 47% yield | CN1C(=C2C[C@H]3N(C[C@H](C=C3C=3C=CC=C1C32)NC(N(CC)CC)=O)C)SC3=CC=CC=C3 | C27H32N4OS
